US06380430B1
A solution of 7.0 g of 3-bromo-5-methylphenol and 5.97 g of methyl bromoacetate and also 13 g of caesium carbonate in 100 ml of acetonitrile is stirred overnight at room temperature. After customary working up, 9.70 g of methyl 3-bromo-5-methylphenoxyacetate (“AB”) are obtained. A suspension of 2.0 g of “AB”, 100 mg of tetrakis(triphenylphosphine)palladium and 0.85 g of sodium carbonate in 50 ml of toluene is heated to boiling. A solution of 2.94 g of 3-cyanophenylboronic acid in 30 ml of methanol is then added dropwise and the mixture is heated under reflux for 14 hours. It is worked up in the customary manner and 2.17 g of methyl 3′-cyano-5-methylbiphenyl-3-yloxyacetate (“AC”) are obtained. A solution of 1.2 g of “AC” and 0.765 g of NBS in 50 ml of carbon tetrachloride is irradiated with UV light at room temperature. After customary working up, 1.54 g of methyl 3′-cyano-5-bromomethylbiphenyl-3-yloxyacetate (“AD”) are obtained. A solution of 185 mg of “AD”, 63.1 mg of 4-hydroxybenzonitrile and 172.7 mg of caesium carbonate in 10 ml of acetonitrile is stirred at room temperature for 4 days. After customary working up, methyl 3′-cyano-5-(4-cyanophenoxymethyl)biphenyl-3-yloxyacetate (“AE”) is obtained. A solution of 60 mg of “AE”, 69.5 mg of hydroxylammonium chloride and 101 mg of triethylamine in 10 ml of methanol is heated under reflux for 14 hours. After removal of the solvent, the residue is taken up in water. The solid is separated off and 70 mg of methyl 3′-N-hydroxyamidino-5-(4-N-hydroxyamidinophenoxymethyl)biphenyl-3-yloxyacetate (“AF”) are obtained. By reduction with H2/Raney nickel, methyl 3′-amidino-5-(4-amidinophenoxymethyl)biphenyl-3-yloxyacetate, FAB 433

reactant | sodium carbonate | 0.85 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-cyanophenylboronic acid | 2.94 g | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | methyl 3′-cyano-5-methylbiphenyl-3-yloxyacetate | 2.17 g | C(#N)C=1C=C(C=CC1)C1=CC(=CC(=C1)C)OCC(=O)OC | C17H15NO3
reactant | NBS | 0.765 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 30 ml | CO | CH4O
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | tetrakis(triphenylphosphine)palladium | 100 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3′-cyano-5-bromomethylbiphenyl-3-yloxyacetate | 1.54 g | C(#N)C=1C=C(C=CC1)C1=CC(=CC(=C1)CBr)OCC(=O)OC | C17H14BrNO3
